US06603012B2
26.1. Preparation of (R)-4-(1-methylethyl)-3-[(R)-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanoyl]-5,5-diphenyloxazolidin-2-one
2.0 g of (RS)-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanoic acid were dissolved in 30 ml of THF and cooled to −30° C. To the cooled mixture, were added successively, 2.3 ml of triethylamine and 780 μl of trimethylacetyl chloride. The mixture was kept at −30° C. for two hours. 308 mg of lithium chloride were added followed by 978 mg of (R)-4-(1-methylethyl)-5,5-diphenyloxazolidin-2-one (Hintermann T., Seebach D., Helv. Chim. Acta, 1998, 81, 2093). The mixture was allowed to warm to room temperature and was kept at that temperature for 18 hours. The reaction mixture was quenched by the addition of one portion of 30 ml of a saturated aqueous ammonium chloride solution. The resulting mixture was extracted with three portions of 30 ml of ether. The combined organic extracts were washed with two portions of 30 ml of 1N hydrochloric solution, one portion of 30 ml of water and one portion of 30 ml of saturated aqueous sodium chloride solution. The organic phase was dried over MgSO4 and the solvent evaporated. The residual yellow oil was purified by flash chromatography (SiO2, 3% ethyl acetate/hexanes to 20% ethyl acetate/hexanes, dry pack), yielding 1.8 g of the titled compound and 0.8 g of the starting acid, 1H NMR (CDCl3): 7.40-7.20 (m, 6H), 7.15-6.95 (m, 6H), 6.77 (dd, J=8.2, 2.0 Hz, 1H), 5.26 (d, J=3.4 Hz, 1H), 4.92 (dd, J=8.8, 6.2 Hz, 1H), 2.15 (m, 1H), 1.97 (m, 1H), 1.70 (m, 1H), 1.58 (br. s, 4H), 1.35-1.25 (m, 6H), 1.23 (s, 3H), 1.20 (s, 3H), 1.17 (s, 3H), 1.03 (s, 3H), 0.92 (d, J=7.0 Hz, 3H), 0.85 (t, J=6.8 Hz, 3H), 0.80 (d, J=6.8 Hz, 3H).

reactant | (RS)-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanoic acid | 2.0 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C(=O)O)CCCCC)C | C21H32O2
reactant | trimethylacetyl chloride | 780 μl | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | lithium chloride | 308 mg | [Cl-].[Li+]
reactant | (R)-4-(1-methylethyl)-5,5-diphenyloxazolidin-2-one | 978 mg | CC(C)[C@H]1NC(OC1(C1=CC=CC=C1)C1=CC=CC=C1)=O | C18H19NO2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 2.3 ml | C(C)N(CC)CC | C6H15N
product | (R)-4-(1-methylethyl)-3-[(R)-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanoyl]-5,5-diphenyloxazolidin-2-one | 1.8 g | CC(C)[C@H]1N(C(OC1(C1=CC=CC=C1)C1=CC=CC=C1)=O)C([C@H](CCCCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)=O | C39H49NO3
